### PR TITLE
[Merged by Bors] - feat(Algebra): `Mul/RingEquiv`s between `center` and `Module.End`

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Equiv/Basic.lean [hunk 1]
```diff
@@ -482,6 +482,37 @@ theorem symm_neg : (neg R : M ≃ₗ[R] M).symm = neg R :=
...
+section Semiring
+
+open LinearMap
+
+variable {M₂₁ M₂₂ : Type*} [Semiring R] [AddCommMonoid M₁] [AddCommMonoid M₂]
+  [AddCommMonoid M₂₁] [AddCommMonoid M₂₂] [Module R M₁] [Module R M₂] [Module R M₂₁] [Module R M₂₂]
+
+/-- A linear isomorphism between the domains and codomains of two spaces of linear maps gives a
+additive isomorphism between the two function spaces. -/
+def arrowCongrAddEquiv (e₁ : M₁ ≃ₗ[R] M₂) (e₂ : M₂₁ ≃ₗ[R] M₂₂) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Equiv/Basic.lean:494]:
```suggestion
/-- A linear isomorphism between the domains and codomains of two spaces of linear maps gives a
additive isomorphism between the two function spaces.

See also `LinearEquiv.arrowCongr` for the linear version of this equivalence. -/
def arrowCongrAddEquiv (e₁ : M₁ ≃ₗ[R] M₂) (e₂ : M₂₁ ≃ₗ[R] M₂₂) :
```
and similarly for `conjRingEquiv` and `conj`.

File: Mathlib/Algebra/Ring/Subring/Basic.lean [hunk 2]
```diff
@@ -384,6 +384,14 @@ theorem center_eq_top (R) [CommRing R] : center R = ⊤ :=
 instance : CommRing (center R) :=
   { inferInstanceAs (CommSemiring (Subsemiring.center R)), (center R).toRing with }
 
+/-- The center of isomorphic nonunital semirings are isomorphic. -/
+@[simps!] def centerCongr (e : R ≃+* S) : center R ≃+* center S :=
+  NonUnitalSubsemiring.centerCongr e
+
+/-- The center of a nonunital semiring is isomorphic to the center of its opposite. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Subring/Basic.lean:391]: This is is arguably backwards compared to the type of the equiv; either the docstring or statement should be flipped, I guess deciding based on some existing equivs in mathlib.

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 3]
```diff
@@ -126,3 +126,47 @@ def unitsCenterToCenterUnits [Monoid M] : (Submonoid.center M)ˣ →* Submonoid.
...
+section congr
+
+variable {M} {N : Type*}
+
+/-- The center of isomorphic magmas are isomorphic. -/
+@[to_additive (attr := simps) "The center of isomorphic additive magmas are isomorphic."]
+def Subsemigroup.centerCongr [Mul M] [Mul N] (e : M ≃* N) : center M ≃* center N where
+  toFun r := by refine ⟨e r, ?_, ?_, ?_, ?_⟩ <;>
+    (intros; apply e.symm.injective;
+      simp only [map_mul, e.symm_apply_apply, (isMulCentral_iff _).mp r.2])
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Center.lean:139]: Can you extract this as a `MulEquivClass.apply_mem_center` helper?

File: Mathlib/Algebra/Ring/Subring/Basic.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Algebra/Ring/Subring/Basic.lean:391]: Let me change the names to `centerToMulOpposite` ...

**Review by jjaassoonn — APPROVED** [review]

File: Mathlib/Algebra/Ring/Subsemiring/Basic.lean [hunk 4]
```diff
@@ -285,7 +296,6 @@ instance decidableMemCenter {R} [Semiring R] [DecidableEq R] [Fintype R] :
 theorem center_eq_top (R) [CommSemiring R] : center R = ⊤ :=
   SetLike.coe_injective (Set.center_eq_univ R)
 
-
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Ring/Subsemiring/Basic.lean:288]: Is this intentional?

Comment (alreadydone) [reply Mathlib/Algebra/Ring/Subsemiring/Basic.lean:288]: Yes, it seems pointless to have two consecutive blank lines at the end of a section.

File: Mathlib/Algebra/Module/Equiv/Basic.lean [hunk 5]
```diff
@@ -494,24 +529,15 @@ def smulOfUnit (a : Rˣ) : M ≃ₗ[R] M :=
   DistribMulAction.toLinearEquiv R M a
 
 /-- A linear isomorphism between the domains and codomains of two spaces of linear maps gives a
-linear isomorphism between the two function spaces. -/
+linear isomorphism between the two function spaces.
+
+See `LinearEquiv.arrowCongrAddEquiv` for the additive version of this isomorphism that works
+over a not necessarily commutative semiring. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Equiv/Basic.lean:535]: Could we generalize to `(M₁ →ₗ[R] M₂₁) ≃ₗ[S] (M₂ →ₗ[R] M₂₂)` too? That would then let us use `S := MulOpposite R`, as well as `S := Nat` for the additive case.

File: Mathlib/GroupTheory/Submonoid/Center.lean [hunk 6]
```diff
@@ -126,3 +126,51 @@ def unitsCenterToCenterUnits [Monoid M] : (Submonoid.center M)ˣ →* Submonoid.
...
     Function.Injective (unitsCenterToCenterUnits M) :=
   fun _a _b h => Units.ext <| Subtype.ext <| congr_arg (Units.val ∘ Subtype.val) h
+
+section congr
+
+variable {M} {N : Type*}
+
+@[to_additive] theorem _root_.MulEquivClass.apply_mem_center {F} [EquivLike F M N] [Mul M] [Mul N]
+    [MulEquivClass F M N] (e : F) {x : M} (hx : x ∈ Set.center M) : e x ∈ Set.center N := by
+  let e := MulEquivClass.toMulEquiv e
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Center.lean:136]: Could you add an `Iff` version as well?

File: Mathlib/Algebra/Category/ModuleCat/Basic.lean [hunk 7]
```diff
@@ -453,6 +453,11 @@ def endMulEquiv : End M ≃* (M →ₗ[R] M) where
   left_inv _ := rfl
   right_inv _ := rfl
 
+/-- `ModuleCat.Hom.hom` as an isomorphism of rings. -/
+@[simps!] def endRingEquiv : End M ≃+* (M →ₗ[R] M) where
+  __ := endMulEquiv M
+  map_add' _ _ := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/Basic.lean:459]: Should we drop the `endMulEquiv` above?

Comment (alreadydone) [reply Mathlib/Algebra/Category/ModuleCat/Basic.lean:459]: Good idea, deprecated. It's used in representation theory so I need to change three more files.

File: Mathlib/Algebra/Module/Equiv/Basic.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Equiv/Basic.lean:535]: `e₂` needs to be `S`-linear too, so I can't replace the original def:
```
def arrowCongr [Semiring S] [Module S M₂₁] [Module S M₂₂] [SMulCommClass R S M₂₁]
    [SMulCommClass R S M₂₂] (e₁ : M₁ ≃ₗ[R] M₂) (e₂ : M₂₁ ≃ₗ[R] M₂₂) (h : IsLinearMap S e₂) :
    (M₁ →ₗ[R] M₂₁) ≃ₗ[S] M₂ →ₗ[R] M₂₂ where
  __ := arrowCongrAddEquiv e₁ e₂
  map_smul' c f := by ext; simp [arrowCongrAddEquiv, h.map_smul]
```

**Comment by kbuzzard** [comment]
Thanks!

bors merge
